US07074783B2
Step b): Preparation of 2-(2-aminobenzylamino)succinic acid dimethyl ester
A mixture of 2-(2-nitrobenzylamino)succinic acid dimethyl ester [from a) above] (7.6 g, 25.65 mmol) and platinum oxide (349.51 mg, 1.54 mmol) was shaken in methanol on a Parr hydrogenation apparatus under 50 psi of hydrogen gas. After 12 h the mixture was filtered and concentrated to give 6.6 g of the title compound as a light brown oil.

reactant | 2-(2-nitrobenzylamino)succinic acid dimethyl ester | COC(C(CC(=O)OC)NCC1=C(C=CC=C1)[N+](=O)[O-])=O | C13H16N2O6
reactant | hydrogen | [H][H] | H2
solvent | methanol | CO | CH4O
catalyst | platinum oxide | 1.54 mmol, 349.51 mg | [Pt]=O
product | 2-(2-aminobenzylamino)succinic acid dimethyl ester | 6.6 g | COC(C(CC(=O)OC)NCC1=C(C=CC=C1)N)=O | C13H18N2O4
